US07932272B2
C-(6-Phenoxy-pyridin-2-yl)-methylamine
10% Palladium-carbon (50 mg) was added to a solution of the resulting 6-phenoxy-pyridine-2-carbonitrile (100 mg, 0.51 mmol) in methanol (5.0 mL), the mixture was stirred at room temperature for 24 hours under hydrogen atmosphere (1 atm). The catalyst was removed by filtration, and the filtrate was concentrated to obtain the title compound (65 mg, 64%) as a colorless oil.

reactant | 6-phenoxy-pyridine-2-carbonitrile | 0.51 mmol, 100 mg | O(C1=CC=CC=C1)C1=CC=CC(=N1)C#N | C12H8N2O
solvent | methanol | 5.0 mL | CO | CH4O
catalyst | Palladium-carbon | 50 mg | [C].[Pd]
product | C-(6-Phenoxy-pyridin-2-yl)-methylamine | 65 mg, 64% | O(C1=CC=CC=C1)C1=CC=CC(=N1)CN | C12H12N2O
